US06294558B1
1-(4-Hydroxy-3-chlorophenyl)ethanone (step 1)
To a stirred solution of 2-chlorophenol (10.0 g, 77.8 mmol) in carbon disulfide (20 ml) was added aluminum chloride (21.8 g, 163.4 mmol) at 0° C. under nitrogen. Acetyl chloride (6.72 g, 85.6 mmol) was added, and the mixture was heated at reflux temperature for 6 hours. The mixture was cooled down to room temperature, and poured into ice-water. The whole was extracted with diethylether. The organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. The residue was recrystallized with diethylether-hexane to give the title compound (6.39g, 48% yield).

reactant | 2-chlorophenol | 77.8 mmol, 10.0 g | ClC1=C(C=CC=C1)O | C6H5ClO
reactant | aluminum chloride | 163.4 mmol, 21.8 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | Acetyl chloride | 85.6 mmol, 6.72 g | C(C)(=O)Cl | C2H3ClO
solvent | carbon disulfide | 20 ml | C(=S)=S | CS2
product | 1-(4-Hydroxy-3-chlorophenyl)ethanone | 6.39g, 48% yield | OC1=C(C=C(C=C1)C(C)=O)Cl | C8H7ClO2
